US08420655B2
To a solution of 3-(5-bromo-1-tert-butyl-1H-benzoimidazol-2-yl)-4-[1,2,4]triazol-1-yl-benzoic acid methyl ester (100 mg, 0.22 mmol) in dry THF (2 mL) is added Lithium aluminium hydride (LiAlH) (17 mg, 0.45 mmol). The reaction mixture is stirred at room temperature for 1 hour. The reaction mixture is quenched with saturated NaHCO3 (10 mL), extracted with EtOAc (3×10 mL). The organic layer is separated, washed with brine (10 mL), dried under anhydrous Na2SO4 (500 mg), and is filtered and concentrated. The residue is purified by silica gel flash chromatography with 0-5% MeOH/CH2Cl2 as the eluent. The product fractions are collected and concentrated to afford [3-(5-bromo-1-tert-butyl-1H-benzoimidazol-2-yl)-4-[1,2,4]triazol-1-yl-phenyl]-methanol (47 mg, 50%).

reactant | 3-(5-bromo-1-tert-butyl-1H-benzoimidazol-2-yl)-4-[1,2,4]triazol-1-yl-benzoic acid methyl ester | 0.22 mmol, 100 mg | COC(C1=CC(=C(C=C1)N1N=CN=C1)C1=NC2=C(N1C(C)(C)C)C=CC(=C2)Br)=O | C21H20BrN5O2
reactant | Lithium aluminium hydride | 0.45 mmol, 17 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | [3-(5-bromo-1-tert-butyl-1H-benzoimidazol-2-yl)-4-[1,2,4]triazol-1-yl-phenyl]-methanol | 47 mg, 50% | BrC1=CC2=C(N(C(=N2)C=2C=C(C=CC2N2N=CN=C2)CO)C(C)(C)C)C=C1 | C20H20BrN5O
